US08633173B2
260 c) 2-Amino-[1,2,4]triazolo[1,5-a]pyridin-8-ol (0.200 g, 1.33 mmol) was suspended in acetone (1.9 mL). 1-(bromomethyl)-3-chloro-benzene (0.184 mL, 1.40 mmol) and potassium carbonate (193 mg, 1.40 mmol) were added and the reaction mixture was heated to 80° C. for 1 hour. Reaction mixture was cooled to room temperature, diluted with water, extracted with dichloromethane, dried over magnesium sulfate, filtered, and concentrated. Resulting oil was taken up in dichloromethane and purified via chromatography (silica gel 0-100% ethyl acetate in hexanes). 8-(3-Chloro-benzyloxy)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine was isolated as an oil which solidified on standing. 1H NMR (400 MHz, (D3C)2SO, δ, ppm): 8.17 (d, J=6.6 Hz, 1H), 7.56 (s, 1H), 7.44-7.42 (m, 3H), 6.99 (d, J=7.9 Hz, 1H), 6.79-6.75 (m, 1H), 5.94 (bs, 2H), 5.30 (s, 2H). MS=275 (MH)+. 260 d) [8-(3-Chloro-benzyloxy)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-[4-(4-methyl-piperazin-1-yl)-phenyl]-amine was prepared from 8-(3-chloro-benzyloxy)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine (95.0 mg, 0.346 mmol) and 1-(4-bromo-phenyl)-4-methyl-piperazine (102 mg, 0.399 mmol in a manner analogous to Example 2d. Product was isolated as a pale orange solid (0.073 g, 47%). MP=135-138° C. 1H NMR (400 MHz, (D3C)2SO, δ, ppm): 9.33 (s, 1H), 8.37 (d, J=6.7 Hz, 1H), 7.58 (s, 1H), 7.51-7.44 (m, 5H), 7.09 (d, J=7.9 Hz, 1H), 6.91-6.86 (m, 3H), 5.35 (s, 2H), 3.04-3.01 (m, 4H), 2.46-2.44 (m, 4H), 2.22 (s, 3H). MS=449 (MH)+.

reactant | 2-Amino-[1,2,4]triazolo[1,5-a]pyridin-8-ol | 1.33 mmol, 0.200 g | NC1=NN2C(C(=CC=C2)O)=N1 | C6H6N4O
reactant | 1-(bromomethyl)-3-chloro-benzene | 1.40 mmol, 0.184 mL | BrCC1=CC(=CC=C1)Cl | C7H6BrCl
reactant | potassium carbonate | 1.40 mmol, 193 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 1.9 mL | CC(=O)C | C3H6O
solvent | water | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 8-(3-Chloro-benzyloxy)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine | ClC=1C=C(COC=2C=3N(C=CC2)N=C(N3)N)C=CC1 | C13H11ClN4O
